US05866587
Preparation G: (3R)-1,2,3,4-Tetrahydro-1-heptyl-β-carboline-3-carboxylic Acid, β Isomer
A mixture containing 147 mmol of D-tryptophan, 294 ml of 1 N sulfuric acid, 300 ml of ethanol and 294 mmol of octanal is stirred at 45° C. for 72 hours. The solution is concentrated and the residue is taken up in a water/methanol/ammonium hydroxide mixture. The methanol is evaporated at 45° C. and the precipitate is filtered off, washed with water and dried. The solid obtained is solubilized at high temperature in methanol. After cooling, the compound of preparation F crystallizes. It is then filtered and dried.

reactant | D-tryptophan | 147 mmol | N[C@H](CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | sulfuric acid | 1 N, 294 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 300 ml | C(C)O | C2H6O
reactant | octanal | 294 mmol | C(CCCCCCC)=O | C8H16O
solvent | methanol | CO | CH4O
product | (3R)-1,2,3,4-Tetrahydro-1-heptyl-β-carboline-3-carboxylic Acid | C(CCCCCC)C1N[C@H](CC=2C3=CC=CC=C3NC12)C(=O)O | C19H26N2O2
